US05672697
N4 -Benzoyl-2'-deoxycytidine (3)
This compound was prepared from 2'-deoxycytidine monohydrate by the same procedure used for the preparation of N2 -isobutyryl-2'-deoxyguanosine except that 9.0 mL (77.5 mmol, 5.17 equiv.) of benzoyl chloride was used instead of isobutyric anhydride.

reactant | 2'-deoxycytidine monohydrate | O.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1
reactant | N2 isobutyryl-2'-deoxyguanosine | N#N.C(C(C)C)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12
reactant | benzoyl chloride | 77.5 mmol, 9.0 mL, 5.17 equiv. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N4 -Benzoyl-2'-deoxycytidine | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1)=O | C16H17N3O5
